US05061808
A solution of 1 L of 50% ethanol in water is brought to the boiling point in a large beaker and 68.2 g (0.255 mol) of (S)-5-(cyclohexylmethyl)-2,5-dihydro-4-hydroxy-2-oxo-1H-pyrrole-3-carboxylic acid, ethyl ester is added over about 5 minutes (pot temperature is 82°-84° C.). The solid goes into solution as carbon dioxide evolves. The ethanol is allowed to boil-off over a period of one-half hour (pot temperature is 87° C.). The volume is about 750 ml, a slight turbidity develops and crystals separate on cooling to afford 48.5 g of (S)-5-(cyclohexylmethyl)-2,4-pyrrolidinedione after recrystallization from ethyl acetate; mp 165°-167° C.; [α]D23 =-75° (c=1.1% chloroform).

reactant | ethanol | 1 L | C(C)O | C2H6O
reactant | (S)-5-(cyclohexylmethyl)-2,5-dihydro-4-hydroxy-2-oxo-1H-pyrrole-3-carboxylic acid, ethyl ester | 0.255 mol, 68.2 g | C1(CCCCC1)C[C@H]1C(=C(C(N1)=O)C(=O)OCC)O | C14H21NO4
reactant | carbon dioxide | C(=O)=O | CO2
solvent | water | O | H2O
product | (S)-5-(cyclohexylmethyl)-2,4-pyrrolidinedione | 48.5 g | C1(CCCCC1)C[C@H]1C(CC(N1)=O)=O | C11H17NO2
